US07435735B2
Step 6: 1,6-Dimethylpiperazin-2-one
A solution of benzyl 3,4-dimethyl-5-oxopiperazine-1-carboxylate (780 mg, 2.97 mmol) in EtOH was degassed and purged with nitrogen and treated with 10% palladium on carbon (78 mg). The mixture was degassed and purged with nitrogen again and placed under a balloon atmosphere of hydrogen. The reaction was stirred for 3 h at room temperature and filtered through a pad of Celite, washing with MeOH. The resulting filtrate was concentrated to an oil which was dissolved in toluene. The solution was again filtered through Celite, and the resulting filtrate was concentrated in vacuo to afford the product.

reactant | benzyl 3,4-dimethyl-5-oxopiperazine-1-carboxylate | 2.97 mmol, 780 mg | CC1CN(CC(N1C)=O)C(=O)OCC1=CC=CC=C1 | C14H18N2O3
solvent | EtOH | CCO | C2H6O
product | 1,6-Dimethylpiperazin-2-one | CN1C(CNCC1C)=O | C6H12N2O
